US07888503B2
A 5 mL microwave tube was charged with 7-bromo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine (50 mg), dimethylformamide (3.5 mL), 3-fluoro-4-pyridylboronic acid (2 equiv), potassium carbonate (2 equiv), bis(triphenylphosphine)-palladiumdichloride (10 mol %), and water (0.7 mL). The mixture was heated in a microwave at 150° C. for 5 min, then cooled and concentrated to dryness. The residue was taken up in ethyl acetate and filtered through a Celite pad. The filtrate was concentrated to dryness and the residue was triturated in diethyl ether. The resulting solids were collected on filter then purified using preparative thin-layer chromatography. The plates were eluted with 12.5% methanol in chloroform, and the desired band was collected to provide 7-(3-fluoropyridin-4-yl)-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine as a yellow powder. H1 NMR (d6-dmso): 8.45 (d, 1H), 8.32 (d, 1H), 7.52 (d, 1H), 7.46 (m, 2H), 7.36-7.42 (m, 4H), 7.21 (s, 1H), 6.91 (d, 1H), 6.78 (brt, 1H), 3.96 (m, 2H), 3.60 (m, 2H).

reactant | 7-bromo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine | 50 mg | BrC=1C=CC2=C(C(=NCCN2)C2=CC=CC=C2)C1 | C15H13BrN2
reactant | dimethylformamide | 3.5 mL | CN(C=O)C | C3H7NO
reactant | 3-fluoro-4-pyridylboronic acid | 2 equiv | FC=1C=NC=CC1B(O)O | C5H5BFNO2
reactant | potassium carbonate | 2 equiv | C([O-])([O-])=O.[K+].[K+]
catalyst | bis(triphenylphosphine)-palladiumdichloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 0.7 mL | O | H2O
product | 7-(3-fluoropyridin-4-yl)-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine | FC=1C=NC=CC1C=1C=CC2=C(C(=NCCN2)C2=CC=CC=C2)C1 | C20H16FN3
